### PR TITLE
Add mutually recursive types to Lambda

### PR DESCRIPTION
**Pull request by joscoh**
*Description of changes:*
Adds mutually recursive types to Lambda and its corresponding SMT generation (`declare-datatypes`). In particular, mutually recursive types generate multiple eliminators, which still have the expected computational behavior. This PR includes tests in `TypeFactoryTests.lean` for eliminators, other derived functions, and typechecking and in `SMTEncoderDatatypeTest.lean` and `DatatypeVerificationTest.lean` for SMT output and verification.
Some key changes:
1. Core declarations can now have multiple declarations (and likewise multiple names)
2. The SMT output becomes simpler. We no longer need dependency analysis to rule out mutually recursive types, instead checking type references when a mutual block is created and therefore maintaining a topological order.
3. Substantial changes to the proofs in `ProgramWF.lean`, which now have more structure but also more repetition. They can/should be improved in a future PR.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 1]
```diff
@@ -333,28 +330,26 @@ def LContext.addFactoryFunctions (C : LContext T) (fact : @Factory T) : LContext
...
-    .error f!"Cannot name datatype same as known type!\n\
-                      {d}\n\
-                      KnownTypes' names:\n\
-                      {C.knownTypes.keywords}"
-  let ds ← C.datatypes.addDatatype d
+def LContext.addMutualBlock [Inhabited T.IDMeta] [Inhabited T.Metadata] [ToFormat T.IDMeta] (C: LContext T) (block: MutualDatatype T.IDMeta) : Except Format (LContext T) := do
+  -- Check for name clashes with known types
+  for d in block do
+    if C.knownTypes.containsName d.name then
+      throw f!"Cannot name datatype same as known type!\n{d}\nKnownTypes' names:\n{C.knownTypes.keywords}"
```
Comment (shigoel) [inline Strata/DL/Lambda/LExprTypeEnv.lean:342]: I've been trying to attach source locations to error messages. Can we make sure that this happens in all places where such Lambda functions are called? See, e.g., https://github.com/strata-org/Strata/blob/main/Strata/DL/Imperative/CmdType.lean#L87. 

It's clunky, admittedly.

File: Strata/DL/Lambda/TypeFactory.lean [hunk 2]
```diff
@@ -107,28 +110,44 @@ def checkUniform (c: String) (n: String) (args: List LMonoTy) (t: LMonoTy) : Exc
...
 
-
 /--
-Check for strict positivity and uniformity of datatype `d` in type `ty`. The
-string `c` appears only for error message information.
+Check for strict positivity and uniformity of all datatypes in a mutual block
+within type `ty`. The string `c` appears only for error message information.
 -/
-def checkStrictPosUnifTy (c: String) (d: LDatatype IDMeta) (ty: LMonoTy) : Except Format Unit :=
+def checkStrictPosUnifTy (c: String) (block: MutualDatatype IDMeta) (ty: LMonoTy) : Except Format Unit :=
```
Comment (shigoel) [inline Strata/DL/Lambda/TypeFactory.lean]: Nit: can `c` be of type `Format`, to make it clearer it's meant for error reporting?

File: Strata/Languages/Core/SMTEncoder.lean [hunk 3]
```diff
@@ -93,89 +99,32 @@ private def lMonoTyToSMTString (ty : LMonoTy) : String :=
     else s!"({name} {String.intercalate " " (args.map lMonoTyToSMTString)})"
   | .ftvar tv => tv
 
-/--
```
Comment (shigoel) [inline Strata/Languages/Core/SMTEncoder.lean:96]: Do you still need this import:
`Strata.DDM.Util.Graph.Tarjan`?

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean
Comment (shigoel) [inline StrataTest/Languages/Core/DatatypeVerificationTests.lean:1]: This is already on your list, I bet, but let's create an issue to convert all these examples living outside Languages/Core/Examples to use concrete syntax (when we have it) instead of using ASTs.

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean [hunk 4]
```diff
@@ -614,5 +614,149 @@ info: "Test 8 - Hidden Type Recursion: PASSED\n  Verified 1 obligation(s)\n"
 #guard_msgs in
 #eval test8_hiddenTypeRecursion
 
+/-! ## Test 9: Mutually Recursive Datatypes with Havoc -/
```
Comment (shigoel) [inline StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: Very nice!

Could we also see a failing test, please? Perhaps for an attempt to define a type that's not uniform, etc.

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean
Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:1]: Sounds good. I was waiting until after polymorphism and full mutual datatype support, but I will create an issue.

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: Sure, do you want me to remove the failing tests from `TypeFactoryTests` and put them here inside Core ASTs instead?

File: Strata/DL/Lambda/TypeFactory.lean [hunk 5]
```diff
@@ -107,28 +110,44 @@ def checkUniform (c: String) (n: String) (args: List LMonoTy) (t: LMonoTy) : Exc
...
+  ) ()
+
+/--
+Validate a mutual block: check non-empty and no duplicate names.
+-/
+def validateMutualBlock (block: MutualDatatype IDMeta) : Except Format Unit := do
+  if block.isEmpty then
+    .error f!"Error: Empty mutual block is not allowed"
+  let names : Std.HashSet String := ∅
+  match (block.foldl (fun o d =>
```
Comment (MikaelMayer) [inline Strata/DL/Lambda/TypeFactory.lean]: **Bug**: The `validateMutualBlock` function has a logic error. The `names` HashSet is initialized as empty but never updated during the fold:

```lean
let names : Std.HashSet String := ∅
match (block.foldl (fun o d =>
  if d.name ∈ names then some d else o) none) with
```

This means `d.name ∈ names` is always false, so duplicate names are never detected. The fix:

```lean
def validateMutualBlock (block: MutualDatatype IDMeta) : Except Format Unit := do
  if block.isEmpty then
    .error f!"Error: Empty mutual block is not allowed"
  let result := block.foldl (fun (names, dup) d =>
    if names.contains d.name then (names, some d)
    else (names.insert d.name, dup)) (∅, none)
  match result.snd with
  | some dup => .error f!"Duplicate datatype name in mutual block: {dup}"
  | none => .ok ()
```

This should be fixed before merging.

File: StrataTest/DL/Lambda/TypeFactoryTests.lean [hunk 6]
```diff
@@ -588,6 +588,211 @@ def badTy5 : LDatatype Unit := {name := "Bad", typeArgs := [], constrs := [badCo
...
+    ((LExpr.op () ("isFNil" : TestParams.Identifier) .none).mkApp () [fnil'])
+
+/-- info: Annotated expression:
+((~isFCons : (arrow (Forest int) bool)) (((~FCons : (arrow (RoseTree int) (arrow (Forest int) (Forest int)))) (((~Node : (arrow int (arrow (Forest int) (RoseTree int)))) #1) (~FNil : (Forest int)))) (~FNil : (Forest int))))
+
+---
+info: #true
+-/
+#guard_msgs in
+#eval format $
```
Comment (MikaelMayer) [inline StrataTest/DL/Lambda/TypeFactoryTests.lean:650]: Nit: Did you consider 3-way mutual recursion in your tests? (e.g., three types A, B, C where A references B, B references C, and C references A)

File: Strata/DL/Lambda/LExprTypeEnv.lean (hunk 1 above)
Comment (joscoh) [reply Strata/DL/Lambda/LExprTypeEnv.lean:342]: Isn't this already done in `ProgramType.lean`?  The checks in this file and `TypeFactory.lean` more similar to those in `LExprT.lean`, which don't have source locations since that is handled at a higher level.

File: StrataTest/DL/Lambda/TypeFactoryTests.lean (hunk 6 above)
Comment (joscoh) [reply StrataTest/DL/Lambda/TypeFactoryTests.lean:650]: Added a test for this

File: Strata/DL/Lambda/TypeFactory.lean (hunk 5 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean]: Fixed, thanks

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: I added `DatatypesIllFormed.lean` which demonstrates a non-strictly-positive type and the associated error. Once we have more support in the DDM for polymorphism, mutual recursion, etc, I will add more ill-formed tests here (and remove from `TypeFactoryTests`).

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean
Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:1]: https://github.com/strata-org/Strata/issues/341

File: Strata/DL/Lambda/LExprTypeEnv.lean (hunk 1 above)
Comment (shigoel) [reply Strata/DL/Lambda/LExprTypeEnv.lean:342]: You're right, thanks (not an action item comment, but merely to emphasize the existence of source location info. to other potential reviewers; should've clarified that).

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (shigoel) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: Thanks, that's really helpful!

File: Strata/Languages/Core/ProgramWF.lean [hunk 7]
```diff
@@ -298,37 +309,104 @@ theorem Program.typeCheckFunctionDisjoint : Program.typeCheck.go p C T decls acc
...
-    case _ => grind
-    case _ => grind
-    case _ x v hmatch1 =>
-      rename_i x v hmatch1
-      split at hmatch1 <;> try grind
-      rename_i hmatch2; split at hmatch2 <;> try grind
-      simp only [LContext.addFactoryFunction] at hmatch2; grind
-    done
+    -- Need mem hypothesis in more useful form
+    have a_in': ∀ {x1 x2 l d' T'},
```
Comment (shigoel) [inline Strata/Languages/Core/ProgramWF.lean:313]: Thanks, very nice tactic organization.

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (shigoel) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: @joscoh Is there a test that shows that type aliasing works for a (mutually recursive) datatype? (Sorry if I missed it)

File: Strata/DL/Lambda/TypeFactory.lean [hunk 8]
```diff
@@ -405,28 +557,26 @@ def LDatatype.genFunctionMaps {T: LExprParams} [Inhabited T.IDMeta] [BEq T.Ident
...
+for a mutual block of datatypes.
 -/
-def TypeFactory.genFactory {T: LExprParams} [inst: Inhabited T.Metadata] [Inhabited T.IDMeta] [ToFormat T.IDMeta] [BEq T.Identifier] (t: @TypeFactory T.IDMeta) : Except Format (@Lambda.Factory T) :=
-  t.foldlM (fun f d => do
-    let f' ← d.genFactory
-    f.addFactory f') Factory.default
-
-def TypeFactory.getType (F : @TypeFactory IDMeta) (name : String) : Option (LDatatype IDMeta) :=
-  F.find? (fun d => d.name == name)
+def genBlockFactory {T: LExprParams} [inst: Inhabited T.Metadata] [Inhabited T.IDMeta] [ToFormat T.IDMeta] [BEq T.Identifier]
```
Comment (shigoel) [inline Strata/DL/Lambda/TypeFactory.lean:563]: The expectation here is that `block` is well-formed, right?

Comment (shigoel) [reply Strata/DL/Lambda/TypeFactory.lean:563]: I love all the validation checks (e.g., `validateMutualBlock`). Would we need a separate `MutualBlockWF` specification too?

Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean:563]: Yes, `genBlockFactory` assumes the block is well-formed. It would make sense to have a `MutualBlockWF` specification and prove that `TypeFactory.addMutualBlock` preserves this predicate. Then this can be a precondition to `genBlockFactory`. Alternatively, although it is nice to avoid dependent types, we could even define a `TypeFactory` as an array of well-formed mutual blocks to ensure these conditions always hold.

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: Good question. I tested it and there is actually a problem, since alias names are not in `KnownTypes` and should not be present in the SMT output. Working on a fix. I can add to this PR or another one.

File: Strata/DL/Lambda/TypeFactory.lean (hunk 8 above)
Comment (shigoel) [reply Strata/DL/Lambda/TypeFactory.lean:563]: I'm good with either solution (though I've been guilty of using dep. types for Lambda's type unification because that helped me isolate cases in the proof "naturally").

Comment (shigoel) [reply Strata/DL/Lambda/TypeFactory.lean:563]: (Clarifying: this is not an action item for this PR)

File: StrataTest/Languages/Core/DatatypeVerificationTests.lean (hunk 4 above)
Comment (shigoel) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: Whatever works for you. Looks like the problem is for both non-rec. and rec. datatypes, so a different bugfix PR would make sense since this is specific to rec. types.

Comment (joscoh) [reply StrataTest/Languages/Core/DatatypeVerificationTests.lean:617]: https://github.com/strata-org/Strata/pull/344 fixes this bug and adds a test

File: Strata/DL/Lambda/TypeFactory.lean (hunk 8 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean:563]: https://github.com/strata-org/Strata/issues/345 Created an issue to track this
